US06835732B2
4-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-N-[4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-benzamide
0.035 g N-(2-methoxyethyl)-methylamine (0.00039 Mol) and 0.064 g (4-chloromethyl-N-[4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-benzamide (0.00013 Mol) dissolved in THF (2 ml) were heated to reflux for 4 hrs. After cooling to room temperature and evaporation of the solvent the residue was triturated with water (7 ml). A precipitation formed, which was filtered, washed with water and dried yielding the title product as an off-white solid (79%); F.p.: 100-110° C.

reactant | N-(2-methoxyethyl)-methylamine | 0.00039 Mol, 0.035 g | COCCNC | C4H11NO
reactant | 4-chloromethyl-N-[4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-benzamide | 0.00013 Mol | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C=3N=C(SC3)N3CCOCC3)OC)C=C1 | C23H21ClN4O3S2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-N-[4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-benzamide | 79% | COCCN(C)CC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C=3N=C(SC3)N3CCOCC3)OC)C=C1 | C27H31N5O4S2
